US07320994B2
1-(3,5-bis-trifluoromethyl-benzyl)-4-[5-(2-chloro-benzyl)-1H-imidazol-4-yl]-5-phenyl-1H-[1,2,3]triazole
Combine 1-(3,5-bis-trifluoromethyl-benzyl)-4-[4-(2-chloro-benzyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazol-5-yl]-5-phenyl-1H-[1,2,3]triazole (0.100 mmol), 2.5 mL of xylene, and 2N solution of methylamine in methanol (0.2 mL, 0.40 mmol) and heat in a sealed pyrex tube to 135° C. After 19 hours, cool to RT. Concentrate the mixture to 1.0 mL and apply to a 2 mm chromatotron plate with CH2Cl2 and EtOAc and elute with a 100 mL of Hexanes, and 200 mL each of 20:80 EtOAc/Hexanes, 30:70 EtOAc/Hexanes, 50:50 Hexanes/EtOAc, 85:15 EtOAc/Hexanes to provide the title compound: Exact Mass 561.1: mass spectrum (IS): m/z=563.1 (M+1), 561.1 (M−1); 1H NMR (250 MHz, CDCl3) 7.74 (s, 1H), 7.62 (s, 1H), 7.48-7.32 (m, 6H), 7.30-7.00 (m, 6H), 5.52 (s, 2H), 4.20 (s, 2H).

reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-4-[4-(2-chloro-benzyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazol-5-yl]-5-phenyl-1H-[1,2,3]triazole | 0.100 mmol | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2C(N=CO2)(S(=O)(=O)C2=CC=C(C=C2)C)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C34H25ClF6N4O3S
reactant | methylamine | CN | CH5N
reactant | methanol | 0.40 mmol, 0.2 mL | CO | CH4O
solvent | xylene | 2.5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(3,5-bis-trifluoromethyl-benzyl)-4-[5-(2-chloro-benzyl)-1H-imidazol-4-yl]-5-phenyl-1H-[1,2,3]triazole | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N=CNC2CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H18ClF6N5
